US05506354
Trichloropyrimidine is added in portions to an ice cool solution of N-methylpiperazine (40 g) in ethanol (200 ml). The mixture is then heated at 60° for 2 h. The mixture is concentrated and chromatographed on silica gel with 2-5% methanol and methylene chloride to give 2,4-bis[4-methylpiperazinol-6-chloropyrimidine. This material is heated at 130° in water (30 ml) with piperazine (32 g) in a Parr bomb for 20 h. The product is partitioned between methylene chloride and aqueous sodium carbonate. The phases are separated and the organic phase is dried over sodium sulfate and concentrated to give the title compound, TLC (methylene chloride/methanol/ammonium hydroxide--91.5/8/0.5) Rf =0.3.

reactant | Trichloropyrimidine | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | N-methylpiperazine | 40 g | CN1CCNCC1 | C5H12N2
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 4-methylpiperazinol 6-chloropyrimidine | CN1CCN(CC1)O.ClC1=CC=NC=N1 | InChI=1S/C5H12N2O.C4H3ClN2/c1-6-2-4-7(8)5-3-6;5-4-1-2-6-3-7-4/h8H,2-5H2,1H3;1-3H
